Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],4.31708289562
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.96248514394
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.2255346587700005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.49975701046
[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-6.29650740982
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],0.8467602596100001
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3],3.61681746976
[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4],2.87758010917
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.71176007447
[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-3.5572060509900005
[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:12]([H:13])([H:14])[H:15],4.66107187398
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7],2.13270709903
[C:1]#[C:2][O:3][H:4]>>[C:1][C:2][O:3].[H:4],2.0491185276
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10],3.70026791591
[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.39714143786
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],5.06035258194
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:14].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])=[C:15]([H:16])[H:17],1.7629709937400002
[H:1][C:2]=[C:3]1[C@@:4]2([O:5][H:6])[C:7][C@@:8]12[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]#[C:8][H:9],-2.24655443125
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],2.3640033968200003
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.068039028119999
[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-3.89011687988
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],4.11884403467
[H:1][O:2][C@@:3]12[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1[C:10]2([H:11])[H:12]>>[H:1][O:2][C:3][C:10]([C:9]#[C:4][C:5]([H:6])([H:7])[H:8])([H:11])[H:12],0.762241761409
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:11]([H:12])([H:13])[O:14][H:15],1.47642878755
[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.04015330403
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-7.0607320960000015
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],2.21536176
